US04902799
2-[4-(2-Oxo-1-benzimidazolinyl)-1-piperidinyl]-1-(6-methoxy-2-naphthyl)-ethanol (MG 38069)
A mixture of 5.7 g of 2-bromoacetyl-6-methoxynaphthalene (20 mmole), 3.95 g of 4-(2-oxo-1-benzimidazolinyl)-piperidine (18 mmole); b 1.7 g of NaHCO3 (20 mmole) and 60 ml of methanol is refluxed with stirring for 5 hours, then 1.4 g of NaBH4 (37 mmole) dissolved in 7 ml of alkaline water is dropped while maintaining the reaction mixture at the boiling temperature.

reactant | 2-bromoacetyl-6-methoxynaphthalene | 20 mmole, 5.7 g | BrCC(=O)C1=CC=CC2=CC(=CC=C12)OC | C13H11BrO2
reactant | 4-(2-oxo-1-benzimidazolinyl)-piperidine | 18 mmole, 3.95 g | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | NaHCO3 | 20 mmole, 1.7 g | C(=O)(O)[O-].[Na+]
reactant | NaBH4 | 37 mmole, 1.4 g | [BH4-].[Na+]
reactant | methanol | 60 ml | CO | CH4O
solvent | water | 7 ml | O | H2O
product | 2-[4-(2-Oxo-1-benzimidazolinyl)-1-piperidinyl]-1-(6-methoxy-2-naphthyl)-ethanol | O=C1NC2=C(N1C1CCN(CC1)CC(O)C1=CC3=CC=C(C=C3C=C1)OC)C=CC=C2 | C25H27N3O3
